US09102636B2
A solution of 3-methoxyphenol (10 g, 80.55 mmol) in propionic acid (80 mL) was treated at −5° C. with a solution of NaNO2 (5.61 g, 81.30 mmol) in water (13 mL). After stirring for 1 h at −5° C., nitric acid (6.7 mL, 161.10 mmol) was added. The slurry was stirred for 1 h at −5° C., and then at room temperature for 16 h. Water (80 mL) was then added in a dropwise fashion at room temperature. The resultant solid was filtered, washed with 50% aqueous propionic acid, and dried to give 7.47 g (55%) of 5-methoxy-2-nitro-phenol.

reactant | 3-methoxyphenol | 80.55 mmol, 10 g | COC=1C=C(C=CC1)O | C7H8O2
reactant | NaNO2 | 81.30 mmol, 5.61 g | N(=O)[O-].[Na+]
reactant | nitric acid | 161.10 mmol, 6.7 mL | [N+](=O)(O)[O-] | HNO3
solvent | propionic acid | 80 mL | C(CC)(=O)O | C3H6O2
solvent | water | 13 mL | O | H2O
solvent | Water | 80 mL | O | H2O
product | 5-methoxy-2-nitro-phenol | 7.47 g, 55% | COC=1C=CC(=C(C1)O)[N+](=O)[O-] | C7H7NO4
